US07122546B2
Step 4. Preparation of 4,6-diethoxy-3-[2-(6-fluoro-pyridin-2-yl)-imidazol-1-ylmethyl]-pyridazine
Excess K2CO3 is added to a stirred solution of 3-chloromethyl-4,6-diethoxy-pyridazine (70 mg, 0.32 mmol) and 2-fluoro-6-(1H-imidazol-2-yl)-pyridine (52 mg, 0.32 mmol) in DMF (6 mL). The mixture is stirred at room temperature overnight. The solvent is removed in vacuo and water (5 mL) and EtOAc (8 mL) are added. The layers are separated and the aqueous layer is extracted with EtOAc (8 mL). The combined extracts is washed with brine (10 mL) and dried (Na2SO4) and evaporated. Preparative TLC purification of the residue (5% MeOH in CH2Cl2) provides the title compound as a light yellow oil. H1 NMR δ (CDCl3) 8.07–8.10 (m, 1H), 7.82 (q, 1H, J=7.8 Hz), 7.14 (s, 2H), 6.80–6.84 (m, 1H), 6.22 (s, 1H), 6.11 (s, 2H), 4.50 (q, 2H, J=7.2 Hz), 3.95 (q, 2H, J=7.2 Hz), 1.39 (t, 3H, J=7.2 Hz), 1.18 (t, 3H, J=7.2 Hz).

reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-chloromethyl-4,6-diethoxy-pyridazine | 0.32 mmol, 70 mg | ClCC=1N=NC(=CC1OCC)OCC | C9H13ClN2O2
reactant | 2-fluoro-6-(1H-imidazol-2-yl)-pyridine | 0.32 mmol, 52 mg | FC1=NC(=CC=C1)C=1NC=CN1 | C8H6FN3
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 4,6-diethoxy-3-[2-(6-fluoro-pyridin-2-yl)-imidazol-1-ylmethyl]-pyridazine | C(C)OC1=C(N=NC(=C1)OCC)CN1C(=NC=C1)C1=NC(=CC=C1)F | C17H18FN5O2
